US07538112B2
Step 4: 2-(4-Fluorobenzyl)-10-hydroxy-4-(hydroxymethyl)-8-methyl-7,8-dihydropyrazino[1′,2′:1,5]pyrrolo[2,3-d]pyridazine-1,9(2H,6H)-dione
To a solution of 2-(4-fluorobenzyl)-4-(hydroxymethyl)-10-methoxy-8-methyl-7,8-dihydropyrazino[1′,2′:1,5]pyrrolo[2,3-d]pyridazine-1,9(2H,6H)-dione (27 mg g, 70 μmol) in anhydrous dichloromethane (1 mL), a solution of boron tribromide in dichloromethane (90 μL, 90 μmol; 1 M) was added. After stirring at room temperature for one hour, the reaction mixture was treated with anhydrous methanol (2 mL), stirred for 30 minutes, and concentrated under vacuum. The procedure was repeated twice. The residue was subjected to purification on preparative reverse phase high pressure column chromatography. Collection and lyophilization of appropriate fractions provided the title compound.

reactant | 2-(4-fluorobenzyl)-4-(hydroxymethyl)-10-methoxy-8-methyl-7,8-dihydropyrazino[1′,2′:1,5]pyrrolo[2,3-d]pyridazine-1,9(2H,6H)-dione | 70 μmol, 27 mg | FC1=CC=C(CN2N=C(C3=C(C2=O)C(=C2N3CCN(C2=O)C)OC)CO)C=C1 | C19H19FN4O4
reactant | boron tribromide | B(Br)(Br)Br | BBr3
reactant | methanol | 2 mL | CO | CH4O
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 90 μmol, 1 M, 90 μL | ClCCl | CH2Cl2
product | 2-(4-Fluorobenzyl)-10-hydroxy-4-(hydroxymethyl)-8-methyl-7,8-dihydropyrazino[1′,2′:1,5]pyrrolo[2,3-d]pyridazine-1,9(2H,6H)-dione | FC1=CC=C(CN2N=C(C3=C(C2=O)C(=C2N3CCN(C2=O)C)O)CO)C=C1 | C18H17FN4O4
